US04971982
5.06 g of benzyl 6-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)-3-pyridinecarboxylate were heated at 100° C. with 7.8 ml of tributylamine, 244 mg of 10% palladium-on-charcoal and 0.9 ml of formic acid. After 12 hours a further 7.8 ml of tributylamine and 10 ml of formic acid were added. After 24 hours a further 2 ml of tributylamine and 3 ml formic acid were added. After 26 hours a further 170 mg of 10% palladium-on-charcoal, 2 ml tributylamine and 3 ml of formic acid were added. After 28 hours the mixture was evaporated and filtered. The filtrate was evaporated and the residue obtained was chromatographed on silica gel using ethyl acetate/petroleum ether (1:2) and ethyl acetate for the elution. There were obtained 1.4 g of 6-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)-3-pyridinecarboxylic acid which was used without further purification.

reactant | benzyl 6-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)-3-pyridinecarboxylate | 5.06 g | C(#N)C=1C=CC2=C(C(=CC(O2)(C)C)C2=CC=C(C=N2)C(=O)OCC2=CC=CC=C2)C1 | C25H20N2O3
reactant | tributylamine | 7.8 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | tributylamine | 7.8 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | tributylamine | 2 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | tributylamine | 2 ml | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | palladium-on-charcoal | 244 mg | [Pd] | Pd
catalyst | palladium-on-charcoal | 170 mg | [Pd] | Pd
solvent | formic acid | 3 ml | C(=O)O | CH2O2
solvent | formic acid | 3 ml | C(=O)O | CH2O2
solvent | formic acid | 10 ml | C(=O)O | CH2O2
solvent | formic acid | 0.9 ml | C(=O)O | CH2O2
product | 6-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)-3-pyridinecarboxylic acid | 1.4 g | C(#N)C=1C=CC2=C(C(=CC(O2)(C)C)C2=CC=C(C=N2)C(=O)O)C1 | C18H14N2O3
